US09085570B2
To a mixture of lithium aluminum hydride (4.4 g, 115.79 mmol, 2.00 equiv) in tetrahydrofuran (120 mL) maintained under nitrogen at −30° C. was added a solution of 3-(4-bromophenyl)-1-morpholinopropan-1-one (17.2 g, 57.91 mmol, 1.00 equiv) in tetrahydrofuran (80 mL) dropwise with stirring. The resulting solution was stirred at −30° C. for 30 min and at room temperature for 2 h. The reaction was quenched by the sequential addition of 4.4 mL of water, 13 mL of 15% aqueous sodium hydroxide solution and 4.4 mL of water. The solid was removed by filtration and the filtrate was extracted with 1×350 mL of ethyl acetate. The organic layer was washed with 2×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to afford 13.5 g (82%) of 4-(3-(4-bromophenyl)propyl)morpholine as a light yellow oil.

reactant | lithium aluminum hydride | 115.79 mmol, 4.4 g, 2.00 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-bromophenyl)-1-morpholinopropan-1-one | 57.91 mmol, 17.2 g, 1.00 equiv | BrC1=CC=C(C=C1)CCC(=O)N1CCOCC1 | C13H16BrNO2
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 4-(3-(4-bromophenyl)propyl)morpholine | 13.5 g, 82% | BrC1=CC=C(C=C1)CCCN1CCOCC1 | C13H18BrNO
